US07285563B2
3-(Dimethylamino)isoquinolin-5-amine
3-Chloro-5-nitroisoquinoline (Description 108, 160 mg, 0.767 mmol) was dissolved in 33% ethanolic dimethylamine (6 ml) and the mixture then heated in a sealed tube at 100° C. for 2.5 h. After cooling to room temperature the solvent and excess dimethylamine was evaporated and the residue reduced according to the procedure of Description 45 to give the title compound (85 mg, 59%).

reactant | 3-Chloro-5-nitroisoquinoline | 0.767 mmol, 160 mg | ClC=1N=CC2=CC=CC(=C2C1)[N+](=O)[O-] | C9H5ClN2O2
reactant | dimethylamine | 6 ml | CNC | C2H7N
product | 3-(Dimethylamino)isoquinolin-5-amine | 85 mg, 59% | CN(C=1N=CC=2C=CC=C(C2C1)N)C | C11H13N3
